US09315491B2
N-[4-(4-Chloro-5-methylsulfanyl-6-morpholin-4-yl-pyrimidin-2-yl)-phenyl]-methanesulfonamide
A mixture of 4-(4-chloro-5-methylsulfanyl-6-morpholin-4-yl-pyrimidin-2-yl)-phenylamine (30 mg, 0.091 mmol.), methanesulfonyl chloride (15.5 mg, 0.136 mmol, 1.5 eq.) and CH2Cl2 was added to the reaction vessel and flushed with argon. The reaction mixture was stirred at r.t. for 2 hrs. The reaction mixture was partitioned between CH2Cl2 and NaHCO3 (aq), the organic layer was washed with brine, dried over MgSO4, filtered and evaporated in vacuo. A white solid of 30.3 mg (82.1%) was obtained as the product.

reactant | 4-(4-chloro-5-methylsulfanyl-6-morpholin-4-yl-pyrimidin-2-yl)-phenylamine | 0.091 mmol, 30 mg | ClC1=NC(=NC(=C1SC)N1CCOCC1)C1=CC=C(C=C1)N | C15H17ClN4OS
reactant | methanesulfonyl chloride | 0.136 mmol, 15.5 mg, 1.5 eq. | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-[4-(4-Chloro-5-methylsulfanyl-6-morpholin-4-yl-pyrimidin-2-yl)-phenyl]-methanesulfonamide | ClC1=NC(=NC(=C1SC)N1CCOCC1)C1=CC=C(C=C1)NS(=O)(=O)C | C16H19ClN4O3S2
